US05004745
A suspension of 0.85 g of 1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-(4-methyl-1-pip-erazinyl)-4 -oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 12 cm3 of ethanol, 5 cm3 of 2 N aqueous potassium hydroxide solution and 7 cm3 of water is heated at a temperature close to 80° C. for 1 hour. After adding 5.8 cm3 of a 10% aqueous solution of acetic acid, the precipitate obtained is drained and washed with 3 times 5 cm3 of water. After recrystallizing twice from a mixture of 7.5 cm3 of ethanol and 7.5 cm3 of dimethylformamide each time, 0.4 g of 1-cyclopropyl-7-fluoro-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 250° C.

reactant | 1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-8-(4-methyl-1-pip-erazinyl)-4 -oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 0.85 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)C)=O)C(=O)OCC | C23H25FN4O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 12 cm3 | C(C)O | C2H6O
solvent | potassium hydroxide | 2 N, 5 cm3 | [OH-].[K+]
solvent | water | 7 cm3 | O | H2O
product | 1-cyclopropyl-7-fluoro-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 0.4 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)C)=O)C(=O)O | C21H21FN4O3
